US20010019995A1
Ethyl 2-octylcycloprop-2-ene-1-carboxylate was prepared from 1-decyne and ethyl diazoacetate by the method of Mueller, P.; Pautex, N.; Helv. Chim Acta 1990, 73, 1233.

reactant | 1-decyne | C#CCCCCCCCC | C10H18
reactant | ethyl diazoacetate | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
product | Ethyl 2-octylcycloprop-2-ene-1-carboxylate | C(CCCCCCC)C=1C(C1)C(=O)OCC | C14H24O2
